US05334716
To a stirred solution of pyridine (1.98 ml) in dichloromethane (15 ml) was added chromium(VI) oxide (1.23 g) at 0° C. After 30 minutes, 1-(4-isobutylphenyl)-3-buten-1-ol (525 mg) in dichloromethane (2 ml) was added and stirred for 20 minutes at ambient temperature. The reaction mixture was filtered through Florisil and washed with ether. The filtrate was concentrated in vacuo and chromatographed on silica gel (hexane:dichloromethane=1:1) to give 1-(4-isobutylphenyl)-3-buten-1-one (424 mg).

reactant | pyridine | 1.98 ml | N1=CC=CC=C1 | C5H5N
reactant | 1-(4-isobutylphenyl)-3-buten-1-ol | 525 mg | C(C(C)C)C1=CC=C(C=C1)C(CC=C)O | C14H20O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | chromium(VI) oxide | 1.23 g | [O-2].[Cr+6].[O-2].[O-2]
product | 1-(4-isobutylphenyl)-3-buten-1-one | 424 mg | C(C(C)C)C1=CC=C(C=C1)C(CC=C)=O | C14H18O
